US06127550
Under a nitrogen atmosphere, a solution of 3-chlorothiophene (48.75 g) in TBME (291 g) is cooled to -10° C. and 2.5 M n-butyllithium in hexanes (151.3 mL) is added at such a rate that the reaction temperature is maintained between 0 and 5° C. After the addition is complete, the mixture is cooled to -5° C. and 1-p-toluenesulfonyl-2(R)-ethylaziridine (74.1 g, as a 56.9 % (w/w) solution in TBME) is added at such a rate as to maintain the temperature of the reaction mixture below 9° C. (during which time a solid precipitates). After about 5 minutes, the mixture is cooled to 0° C. and the precipitate is collected by vacuum filtration, washed with 0° C. TBME (60 mL), and dried in vacuo at about 40° C., to give (R)-1-(3-chlorothien-2-yl)-2-butyltoluenesulfonamide lithium salt. m.p. 372° C. (dec.). MS (FAB), m/z 350, 352 (100%), 1HNMR (200 Mhz, DMSO) δ 0.8 (t, 3H): 2.25 (s, 3H); 6.85 (d, 1H); 7.05 (d, 2H), 7.35 (d, 2H).

reactant | 3-chlorothiophene | 48.75 g | ClC1=CSC=C1 | C4H3ClS
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | 1-p-toluenesulfonyl-2(R)-ethylaziridine | C1(=CC=C(C=C1)S(=O)(=O)N1[C@@H](C1)CC)C | C11H15NO2S
reactant | TBME | 291 g | CC(C)(C)OC | C5H12O
product | (R)-1-(3-chlorothien-2-yl)-2-butyltoluenesulfonamide lithium salt | [Li+].ClC1=C(SC=C1)[C@@]1(C(C=CC=C1)(S(=O)(=O)[NH-])CCCC)C | InChI=1S/C15H19ClNO2S2.Li/c1-3-4-9-15(21(17,18)19)10-6-5-8-14(15,2)13-12(16)7-11-20-13;/h5-8,10-11H,3-4,9H2,1-2H3,(H-,17,18,19);/q-1;+1/t14-,15?;/m1./s1
